US07411072B2
5-(2,4-Dimethoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Following procedures essentially as described in Preparation 5 and Example 28, above, and using dibenzosuberone (2.00 g, 10.29 mmol) and 2,4-dimethoxybenzaldehyde (1.71 g, 10.29 mmol) affords 231 mg (7%) ofthe title compound as awhite foam. 1H-NMR (CDCl3) δ 2.70-3.67 (br m, 4H), 3.73 (s, 3H), 3.84 (s, 3H), 6.15 (dd, 1H), 6.41 (d, 1H), 6.61 (d, 1H), 6.9-7.27 (m, 8H), 7.56 (dd, 1H); HPLC shows 98% purity.

reactant | dibenzosuberone | 10.29 mmol, 2.00 g | C1CC2=CC=CC=C2C(=O)C3=CC=CC=C31 | C15H12O
reactant | 2,4-dimethoxybenzaldehyde | 10.29 mmol, 1.71 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
product | 5-(2,4-Dimethoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 231 mg, 7% | COC1=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC(=C1)OC | C24H22O2
